US08609675B2
To a pressure tube was charged 5-chloro-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-9d, 5.36 g, 12.5 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (4.26 g, 13.8 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (510 mg, 0.62 mmol), 2M Na2CO3 (30 ml) and DME (60 ml). The tube was degassed with Ar briefly, capped and heated at 100° C. with stirring overnight. After cooling, the reaction mixture was diluted with EtOAc and water, the organic layer was isolated, washed with brine and dried (MgSO4). After the solvent was removed under reduced pressure, the residue was purified on silica. Elution with EtOAc in hexanes (0-25%) gave tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (Int-9e) (5.76 g, 80%).

reactant | 5-chloro-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 12.5 mmol, 5.36 g | ClC1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2 | C18H33ClN4O2Si2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 13.8 mmol, 4.26 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | dichloromethane | 0.62 mmol, 510 mg | ClCCl | CH2Cl2
reactant | Na2CO3 | 2M, 30 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 60 ml | COCCOC | C4H10O2
product | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 5.76 g, 80% | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2=CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C28H49N5O4Si2
